US04775675
2-(2-Benzofuryl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
1.46 g (1.39 ml, 10 mmoles) of 2-formylbenzofuran are added to a solution containing 1.5 g (10 mmoles) of D-penicillamine in 150 ml of methanol while stirring. After 48 hours, the solution is evaporated to dryness under reduced pressure. The syrupic residue is dissolved in hot benzene and filtered. After adding petroleum ether, the title compound is precipitated in a crystalline form with a yield of 1.9 g (68.6%), m.p.: 96° C., [α]D20 =+215° (c=0.511, dimethylsulphoxide).

reactant | 2-formylbenzofuran | 10 mmoles, 1.39 ml, 1.46 g | C(=O)C=1OC2=C(C1)C=CC=C2 | C9H6O2
reactant | D-penicillamine | 10 mmoles, 1.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 150 ml | CO | CH4O
product | 2-(2-Benzofuryl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | O1C(=CC2=C1C=CC=C2)C2SC([C@@H](N2)C(=O)O)(C)C | C14H15NO3S
